US06265575B1
Part C. 2-[4-(Cyanomethyl)phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene
2-[4-(Cyanomethyl)phenyl]benzo[b]thiophen-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone (158 mg) in THF (5.0 mL) was treated with lithium aluminum hydride (13 mg) at 0° C. for 2 h, and then quenched with water (0.5 mL) and sodium hydroxide (5.0 M, 0.5 mL). Stirring was continued for 10 min. The reaction mixture was diluted with brine (50 mL) and extracted with dichloromethane (3×50 mL). The combined organic layers were dried with sodium sulfate and concentrated in vacuo to give a yellow foam-like material. This material was dissolved in dichloromethane (5 mL), treated with triethylsilane (0.3 mL) and trifluroacetic acid (0.2 mL) at 0° C. for 1.5 h, and concentrated under reduced pressure. The residue was extracted with dichloromethane (50 mL×3) from saturated aqueous sodium bicarbonate (50 mL). The combined organic layers were dried with sodium sulfate and concentrated. Chromatography with Et3N:EtOAc (0-5%) afforded the product (106 mg).

reactant | 2-[4-(Cyanomethyl)phenyl]benzo[b]thiophen-3-yl 4-[2-(1-pyrrolidinyl)ethoxy]phenyl ketone | 158 mg | N1(CCCC1)CCOC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)CC#N)C=CC=C2 | C29H26N2O2S
reactant | lithium aluminum hydride | 13 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | triethylsilane | 0.3 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluroacetic acid | 0.2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2-[4-(Cyanomethyl)phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | 106 mg | C(#N)CC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C29H28N2OS
